### PR TITLE
[Merged by Bors] - feat(Analysis/NormedSpace/{ProdLp,PiLp}): add `BoundedSMul` instances

### PR DESCRIPTION
**Pull request by eric-wieser**
Also adds:
* Lemmas linking the $L^\infty$ norm via `WithLp` to the standard one on products
* A new `BoundedSMul.of_nnnorm_smul_le` which eliminates all the positivity juggling.

In theory we could generalize even further to non-unital rings, but that would require more generalization of `WithLp`, and is trivial for someone to do later; the proofs here will still work.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -75,6 +75,16 @@ theorem Set.Finite.lt_cInf_iff (hs : s.Finite) (h : s.Nonempty) : a < sInf s ↔
 
 end ConditionallyCompleteLinearOrder
 
+section ConditionallyCompleteLinearOrderBot
+variable [ConditionallyCompleteLinearOrderBot α]
+
+lemma Finset.sup_univ_eq_ciSup [Fintype ι] (f : ι → α) : univ.sup f = ⨆ i, f i :=
+  le_antisymm
+    (Finset.sup_le fun _ _ => le_ciSup (finite_range _).bddAbove _)
+    (ciSup_le' fun _ => Finset.le_sup (mem_univ _))
```
Comment (eric-wieser) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:84]: @YaelDillies, perhaps you know if this is hiding elsewhere

Comment (YaelDillies) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:84]: No, this is indeed missing. Note however that it belongs in the next section

Comment (eric-wieser) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:84]: How so?

Comment (eric-wieser) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:84]: I span off #9807; the structure of this file was confusing me because it had the same lemma twice in different places.

File: Mathlib/Analysis/NormedSpace/PiLp.lean [hunk 2]
```diff
@@ -560,6 +560,25 @@ theorem nnnorm_eq_ciSup {β : ι → Type*} [∀ i, SeminormedAddCommGroup (β i
   simp [NNReal.coe_iSup, norm_eq_ciSup]
 #align pi_Lp.nnnorm_eq_csupr PiLp.nnnorm_eq_ciSup
 
+@[simp] theorem nnnorm_equiv {β : ι → Type*} [∀ i, SeminormedAddCommGroup (β i)] (f : PiLp ∞ β) :
+    ‖WithLp.equiv ⊤ _ f‖₊ = ‖f‖₊ := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/NormedSpace/PiLp.lean:564]: Mini-section with variables, and then the statements should fit on one line.
```suggestion
section Linfty
variable {β : ι → Type*} [∀ i, SeminormedAddCommGroup (β i)]

@[simp] theorem nnnorm_equiv (f : PiLp ∞ β) : ‖WithLp.equiv ⊤ _ f‖₊ = ‖f‖₊ := by
```

**Review by j-loreaux — COMMENTED** [review]
Thanks, this is nice cleanup and generalization.

bors d+

File: Mathlib/Analysis/NormedSpace/PiLp.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/PiLp.lean]: Done; it turned out there was already an ambient `β`

**Comment by eric-wieser** [comment]
bors merge
